US07795257B2
The title D compound, 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid hydrochloride (150 mg, 0.346 mmol) is slurried in DMF (3 mL) with TEA (97 μL, 0.692 mmol) and cooled to 0° C. After 45 min, isoquinolin-1-ylamine (50 mg, 0.346 mmol) in pyridine (1 mL) is added dropwise. The reaction is allowed to stir and warm to RT overnight. The reaction is diluted with ethyl acetate and water. The organic layer is separated, dried over anhydrous sodium sulfate, filtered and concentrated to afford a brown oil. Purification via flash chromatography using 0→2% methanol in ethyl acetate affords the pure product. This is dissolved in 1 M hydrochloric acid in ether and stirred at RT for 30 min, then concentrated. Dissolution in water followed by lyophilization affords 3-cyclopentyl-N-isoquinolin-1-yl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionamide, hydrochloric salt as a yellow solid: LC/MS 507.4 (M+1), 505.5 (M−1); 1H NMR (400 MHz, DMSO-D6) δ 1.2 (m, 2 H) 1.5 (m, 2 H) 1.6 (m, 2 H) 1.7 (m, 2 H) 1.8 (dd, J=13.3, 6.9 Hz, 2 H) 2.2 (dd, J=13.0, 7.5 Hz, 1 H) 2.7 (m, 5 H) 2.9 (s, 1 H) 3.1 (s, 1 H) 3.4 (d, J=11.9 Hz, 2 H) 3.8 (d, J=12.4 Hz, 2 H) 5.0 (s, 1 H) 7.8 (m, 2 H) 7.9 (m, 2 H) 8.0 (m, 2 H) 8.1 (t, J=7.6 Hz, 1 H) 8.2 (d, J=8.1 Hz, 1 H) 8.2 (d, J=6.6 Hz, 1 H) 9.0 (s, 1 H) 11.1 (s, 1 H). EC50 in primary enzyme assay 50 μM

reactant | 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid hydrochloride | 0.346 mmol, 150 mg | Cl.C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C
reactant | isoquinolin-1-ylamine | 0.346 mmol, 50 mg | C1(=NC=CC2=CC=CC=C12)N | C9H8N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | hydrochloric acid | 1 M | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-cyclopentyl-N-isoquinolin-1-yl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionamide | C1(CCCC1)CC(C(=O)NC1=NC=CC2=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C28H34N4O3S
